US06403610B1
2 cm3 of 5N aqueous sodium hydroxide solution were added, with stirring and under an inert atmosphere, to a solution of 0.48 g of methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(cyclopentylthio)ethyl]piperidine-3-carboxylate in 10 cm3 of methanol. After heating the mixture for 16 hours at a temperature in the region of 60° C., the reaction mass was evaporated under reduced pressure (2.9 kPa) at a temperature in the region of 60° C. and the residue obtained was taken up in 4.3 cm3 of distilled water to which had been added 4.3 cm3 of 28% hydrochloric acid. The remaining insoluble material was filtered off and then the filtrate was evaporated under the same conditions as above. The residue obtained was stirred in a dichloromethane/methanol (90/10 by volume) mixture. The resulting precipitate was filtered off and washed with 3 times 2.5 cm3 of the same mixture. The filtrate was evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. 0.48 g of (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(cyclopentylthio)ethyl]piperidine-3-carboxylic acid dihydrochloride was obtained in the form of a foam with a green color melting with softening at a temperature in the region of 156° C.

reactant | sodium hydroxide | 5N, 2 cm3 | [OH-].[Na+]
reactant | methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(cyclopentylthio)ethyl]piperidine-3-carboxylate | 0.48 g | OC(CC[C@H]1[C@H](CN(CC1)CCSC1CCCC1)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C27H38N2O4S
reactant | hydrochloric acid | 4.3 cm3 | Cl | ClH
reactant | dichloromethane methanol | ClCCl.CO
solvent | methanol | 10 cm3 | CO | CH4O
solvent | water | 4.3 cm3 | O | H2O
product | (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[2-(cyclopentylthio)ethyl]piperidine-3-carboxylic acid dihydrochloride | 0.48 g | Cl.Cl.OC(CC[C@H]1[C@H](CN(CC1)CCSC1CCCC1)C(=O)O)C1=CC=NC2=CC=C(C=C12)OC | InChI=1S/C26H36N2O4S.2ClH/c1-32-19-7-8-24-22(16-19)21(10-12-27-24)25(29)9-6-18-11-13-28(17-23(18)26(30)31)14-15-33-20-4-2-3-5-20;;/h7-8,10,12,16,18,20,23,25,29H,2-6,9,11,13-15,17H2,1H3,(H,30,31);2*1H/t18-,23+,25?;;/m1../s1
